US07071184B2
d. Racemic 2-Methyl-2,3,4,7-tetrahydro-azepine-1-carboxylic acid benzyl ester
Allyl-(1-methyl-pent-4-enyl)-carbamic acid benzyl ester (1.036 g, 3.8 mmol) was dissolved in CH2Cl2 (10 ml) and a stream of argon gas was bubbled into the reaction mixture for 10 minutes. Then bis(tricyclohexylphosphine)benzylidine ruthenium(IV) dichloride (Strem Chemicals, Grubbs' catalyst, 22 mg, 0.027 mmol) was added and the reaction mixture was refluxed for 2 h. Additional bis(tricyclohexylphosphine)benzylidine ruthenium(IV) dichloride (11 mg, 0.014 mmol) was added and the reaction mixture was refluxed for an additional 1.5 hours. The reaction was cooled to RT under argon overnight, then was concentrated in vacuo by rotary evaporation, then was chromatographed (silica gel, 5% EtOAc/hexanes) to give the title compound (0.83 g, 89%): 1H NMR: 7.35–7.20 (m, 5H), 5.65 (1H, m), 5.13 (2H, AB), 4.45–4.05 (m, 2H), 3.56 (1H, d), 2.25–2.10 (m, 2H), 1.90–1.60 (m, 2H), 1.12 (3H, d); Liquid Chromatgraphy/Electrospray mass spec: M+H+=246.2.

reactant | Allyl-(1-methyl-pent-4-enyl)-carbamic acid benzyl ester | 3.8 mmol, 1.036 g | C(C1=CC=CC=C1)OC(N(C(CCC=C)C)CC=C)=O | C17H23NO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | bis(tricyclohexylphosphine)benzylidine ruthenium(IV) dichloride | 0.027 mmol, 22 mg | C=CC1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru]Cl
catalyst | bis(tricyclohexylphosphine)benzylidine ruthenium(IV) dichloride | 0.014 mmol, 11 mg | C=CC1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru]Cl
product | Racemic 2-Methyl-2,3,4,7-tetrahydro-azepine-1-carboxylic acid benzyl ester | 0.83 g, 89% | C(C1=CC=CC=C1)OC(=O)N1C(CCC=CC1)C | C15H19NO2
